US03962438
2-Ethyl-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione
57% Sodium hydride in mineral oil (4.2 g., 0.100 mol.) was added to a stirred solution of 28.0 g. (0.0834 mol.) of 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine -1,3(2H)-dione in 220 ml. of dry dimethylformamide. The mixture was stirred for 1 hour at 25°, then 16.8 g. (8.6 ml., 0.108 mol.) of ethyl iodide was added. The resulting greenish yellow, turbid mixture was stirred for 4.5 hours at 25°, then filtered to give a clear yellow solution. The filtrate was evaporated to dryness under reduced pressure and the residue was triturated with petroleum ether to remove the mineral oil. The crude solid product was precipitated from a methanol-water mixture to give the title compound, m.p. 150°-152° (ethanol).

reactant | Sodium hydride | [H-].[Na+]
reactant | 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine -1,3(2H)-dione | 0.0834 mol | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=O)=O)(F)F | C15H7F3N2O2S
reactant | ethyl iodide | 0.108 mol, 8.6 ml | C(C)I | C2H5I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Ethyl-10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | C(C)N1C(N2C3=C(C=CC=C3SC=3C=CC(=CC23)C(F)(F)F)C1=O)=O | C17H11F3N2O2S
